*-- pdngen: spice deck generated for chip 'chiplet1' PDN
*-- die chiplet1:  W/H: 0.002/0.004


.subckt chiplet1
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
*-- p/g port #: 16/16
+nd_1_0_7000_1500

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_500 nd_1_0_3000_500 0.016324
rd_1_2_0_0_1 nd_1_0_3000_500 nd_1_0_5000_500 0.016324
rd_1_2_0_0_2 nd_1_0_5000_500 nd_1_0_7000_500 0.016324
rd_1_2_0_0_3 nd_1_0_7000_500 nd_1_0_9000_500 0.016324
rd_1_2_0_1_0 nd_1_0_1000_1500 nd_1_0_3000_1500 0.016324
rd_1_2_0_1_1 nd_1_0_3000_1500 nd_1_0_5000_1500 0.016324
rd_1_2_0_1_2 nd_1_0_5000_1500 nd_1_0_7000_1500 0.016324
rd_1_2_0_1_3 nd_1_0_7000_1500 nd_1_0_9000_1500 0.016324
rd_1_2_0_2_0 nd_1_0_1000_2500 nd_1_0_3000_2500 0.016324
rd_1_2_0_2_1 nd_1_0_3000_2500 nd_1_0_5000_2500 0.016324
rd_1_2_0_2_2 nd_1_0_5000_2500 nd_1_0_7000_2500 0.016324
rd_1_2_0_2_3 nd_1_0_7000_2500 nd_1_0_9000_2500 0.016324
rd_1_2_0_3_0 nd_1_0_1000_3500 nd_1_0_3000_3500 0.016324
rd_1_2_0_3_1 nd_1_0_3000_3500 nd_1_0_5000_3500 0.016324
rd_1_2_0_3_2 nd_1_0_5000_3500 nd_1_0_7000_3500 0.016324
rd_1_2_0_3_3 nd_1_0_7000_3500 nd_1_0_9000_3500 0.016324
rd_1_2_0_4_0 nd_1_0_1000_4500 nd_1_0_3000_4500 0.016324
rd_1_2_0_4_1 nd_1_0_3000_4500 nd_1_0_5000_4500 0.016324
rd_1_2_0_4_2 nd_1_0_5000_4500 nd_1_0_7000_4500 0.016324
rd_1_2_0_4_3 nd_1_0_7000_4500 nd_1_0_9000_4500 0.016324
rd_1_2_0_5_0 nd_1_0_1000_5500 nd_1_0_3000_5500 0.016324
rd_1_2_0_5_1 nd_1_0_3000_5500 nd_1_0_5000_5500 0.016324
rd_1_2_0_5_2 nd_1_0_5000_5500 nd_1_0_7000_5500 0.016324
rd_1_2_0_5_3 nd_1_0_7000_5500 nd_1_0_9000_5500 0.016324
rd_1_2_0_6_0 nd_1_0_1000_6500 nd_1_0_3000_6500 0.016324
rd_1_2_0_6_1 nd_1_0_3000_6500 nd_1_0_5000_6500 0.016324
rd_1_2_0_6_2 nd_1_0_5000_6500 nd_1_0_7000_6500 0.016324
rd_1_2_0_6_3 nd_1_0_7000_6500 nd_1_0_9000_6500 0.016324
rd_1_2_0_7_0 nd_1_0_1000_7500 nd_1_0_3000_7500 0.016324
rd_1_2_0_7_1 nd_1_0_3000_7500 nd_1_0_5000_7500 0.016324
rd_1_2_0_7_2 nd_1_0_5000_7500 nd_1_0_7000_7500 0.016324
rd_1_2_0_7_3 nd_1_0_7000_7500 nd_1_0_9000_7500 0.016324
rd_1_2_0_8_0 nd_1_0_1000_8500 nd_1_0_3000_8500 0.016324
rd_1_2_0_8_1 nd_1_0_3000_8500 nd_1_0_5000_8500 0.016324
rd_1_2_0_8_2 nd_1_0_5000_8500 nd_1_0_7000_8500 0.016324
rd_1_2_0_8_3 nd_1_0_7000_8500 nd_1_0_9000_8500 0.016324
rd_1_2_0_9_0 nd_1_0_1000_9500 nd_1_0_3000_9500 0.016324
rd_1_2_0_9_1 nd_1_0_3000_9500 nd_1_0_5000_9500 0.016324
rd_1_2_0_9_2 nd_1_0_5000_9500 nd_1_0_7000_9500 0.016324
rd_1_2_0_9_3 nd_1_0_7000_9500 nd_1_0_9000_9500 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_500 nd_2_0_1000_1500 0.016324
rd_2_1_0_0_1 nd_2_0_1000_1500 nd_2_0_1000_2500 0.016324
rd_2_1_0_0_2 nd_2_0_1000_2500 nd_2_0_1000_3500 0.016324
rd_2_1_0_0_3 nd_2_0_1000_3500 nd_2_0_1000_4500 0.016324
rd_2_1_0_0_4 nd_2_0_1000_4500 nd_2_0_1000_5500 0.016324
rd_2_1_0_0_5 nd_2_0_1000_5500 nd_2_0_1000_6500 0.016324
rd_2_1_0_0_6 nd_2_0_1000_6500 nd_2_0_1000_7500 0.016324
rd_2_1_0_0_7 nd_2_0_1000_7500 nd_2_0_1000_8500 0.016324
rd_2_1_0_0_8 nd_2_0_1000_8500 nd_2_0_1000_9500 0.016324
rd_2_1_0_1_0 nd_2_0_3000_500 nd_2_0_3000_1500 0.016324
rd_2_1_0_1_1 nd_2_0_3000_1500 nd_2_0_3000_2500 0.016324
rd_2_1_0_1_2 nd_2_0_3000_2500 nd_2_0_3000_3500 0.016324
rd_2_1_0_1_3 nd_2_0_3000_3500 nd_2_0_3000_4500 0.016324
rd_2_1_0_1_4 nd_2_0_3000_4500 nd_2_0_3000_5500 0.016324
rd_2_1_0_1_5 nd_2_0_3000_5500 nd_2_0_3000_6500 0.016324
rd_2_1_0_1_6 nd_2_0_3000_6500 nd_2_0_3000_7500 0.016324
rd_2_1_0_1_7 nd_2_0_3000_7500 nd_2_0_3000_8500 0.016324
rd_2_1_0_1_8 nd_2_0_3000_8500 nd_2_0_3000_9500 0.016324
rd_2_1_0_2_0 nd_2_0_5000_500 nd_2_0_5000_1500 0.016324
rd_2_1_0_2_1 nd_2_0_5000_1500 nd_2_0_5000_2500 0.016324
rd_2_1_0_2_2 nd_2_0_5000_2500 nd_2_0_5000_3500 0.016324
rd_2_1_0_2_3 nd_2_0_5000_3500 nd_2_0_5000_4500 0.016324
rd_2_1_0_2_4 nd_2_0_5000_4500 nd_2_0_5000_5500 0.016324
rd_2_1_0_2_5 nd_2_0_5000_5500 nd_2_0_5000_6500 0.016324
rd_2_1_0_2_6 nd_2_0_5000_6500 nd_2_0_5000_7500 0.016324
rd_2_1_0_2_7 nd_2_0_5000_7500 nd_2_0_5000_8500 0.016324
rd_2_1_0_2_8 nd_2_0_5000_8500 nd_2_0_5000_9500 0.016324
rd_2_1_0_3_0 nd_2_0_7000_500 nd_2_0_7000_1500 0.016324
rd_2_1_0_3_1 nd_2_0_7000_1500 nd_2_0_7000_2500 0.016324
rd_2_1_0_3_2 nd_2_0_7000_2500 nd_2_0_7000_3500 0.016324
rd_2_1_0_3_3 nd_2_0_7000_3500 nd_2_0_7000_4500 0.016324
rd_2_1_0_3_4 nd_2_0_7000_4500 nd_2_0_7000_5500 0.016324
rd_2_1_0_3_5 nd_2_0_7000_5500 nd_2_0_7000_6500 0.016324
rd_2_1_0_3_6 nd_2_0_7000_6500 nd_2_0_7000_7500 0.016324
rd_2_1_0_3_7 nd_2_0_7000_7500 nd_2_0_7000_8500 0.016324
rd_2_1_0_3_8 nd_2_0_7000_8500 nd_2_0_7000_9500 0.016324
rd_2_1_0_4_0 nd_2_0_9000_500 nd_2_0_9000_1500 0.016324
rd_2_1_0_4_1 nd_2_0_9000_1500 nd_2_0_9000_2500 0.016324
rd_2_1_0_4_2 nd_2_0_9000_2500 nd_2_0_9000_3500 0.016324
rd_2_1_0_4_3 nd_2_0_9000_3500 nd_2_0_9000_4500 0.016324
rd_2_1_0_4_4 nd_2_0_9000_4500 nd_2_0_9000_5500 0.016324
rd_2_1_0_4_5 nd_2_0_9000_5500 nd_2_0_9000_6500 0.016324
rd_2_1_0_4_6 nd_2_0_9000_6500 nd_2_0_9000_7500 0.016324
rd_2_1_0_4_7 nd_2_0_9000_7500 nd_2_0_9000_8500 0.016324
rd_2_1_0_4_8 nd_2_0_9000_8500 nd_2_0_9000_9500 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_500 nd_2_0_1000_500 0.005
rvd_1_0_0_1 nd_1_0_3000_500 nd_2_0_3000_500 0.005
rvd_1_0_0_2 nd_1_0_5000_500 nd_2_0_5000_500 0.005
rvd_1_0_0_3 nd_1_0_7000_500 nd_2_0_7000_500 0.005
rvd_1_0_0_4 nd_1_0_9000_500 nd_2_0_9000_500 0.005
rvd_1_0_1_0 nd_1_0_1000_1500 nd_2_0_1000_1500 0.005
rvd_1_0_1_1 nd_1_0_3000_1500 nd_2_0_3000_1500 0.005
rvd_1_0_1_2 nd_1_0_5000_1500 nd_2_0_5000_1500 0.005
rvd_1_0_1_3 nd_1_0_7000_1500 nd_2_0_7000_1500 0.005
rvd_1_0_1_4 nd_1_0_9000_1500 nd_2_0_9000_1500 0.005
rvd_1_0_2_0 nd_1_0_1000_2500 nd_2_0_1000_2500 0.005
rvd_1_0_2_1 nd_1_0_3000_2500 nd_2_0_3000_2500 0.005
rvd_1_0_2_2 nd_1_0_5000_2500 nd_2_0_5000_2500 0.005
rvd_1_0_2_3 nd_1_0_7000_2500 nd_2_0_7000_2500 0.005
rvd_1_0_2_4 nd_1_0_9000_2500 nd_2_0_9000_2500 0.005
rvd_1_0_3_0 nd_1_0_1000_3500 nd_2_0_1000_3500 0.005
rvd_1_0_3_1 nd_1_0_3000_3500 nd_2_0_3000_3500 0.005
rvd_1_0_3_2 nd_1_0_5000_3500 nd_2_0_5000_3500 0.005
rvd_1_0_3_3 nd_1_0_7000_3500 nd_2_0_7000_3500 0.005
rvd_1_0_3_4 nd_1_0_9000_3500 nd_2_0_9000_3500 0.005
rvd_1_0_4_0 nd_1_0_1000_4500 nd_2_0_1000_4500 0.005
rvd_1_0_4_1 nd_1_0_3000_4500 nd_2_0_3000_4500 0.005
rvd_1_0_4_2 nd_1_0_5000_4500 nd_2_0_5000_4500 0.005
rvd_1_0_4_3 nd_1_0_7000_4500 nd_2_0_7000_4500 0.005
rvd_1_0_4_4 nd_1_0_9000_4500 nd_2_0_9000_4500 0.005
rvd_1_0_5_0 nd_1_0_1000_5500 nd_2_0_1000_5500 0.005
rvd_1_0_5_1 nd_1_0_3000_5500 nd_2_0_3000_5500 0.005
rvd_1_0_5_2 nd_1_0_5000_5500 nd_2_0_5000_5500 0.005
rvd_1_0_5_3 nd_1_0_7000_5500 nd_2_0_7000_5500 0.005
rvd_1_0_5_4 nd_1_0_9000_5500 nd_2_0_9000_5500 0.005
rvd_1_0_6_0 nd_1_0_1000_6500 nd_2_0_1000_6500 0.005
rvd_1_0_6_1 nd_1_0_3000_6500 nd_2_0_3000_6500 0.005
rvd_1_0_6_2 nd_1_0_5000_6500 nd_2_0_5000_6500 0.005
rvd_1_0_6_3 nd_1_0_7000_6500 nd_2_0_7000_6500 0.005
rvd_1_0_6_4 nd_1_0_9000_6500 nd_2_0_9000_6500 0.005
rvd_1_0_7_0 nd_1_0_1000_7500 nd_2_0_1000_7500 0.005
rvd_1_0_7_1 nd_1_0_3000_7500 nd_2_0_3000_7500 0.005
rvd_1_0_7_2 nd_1_0_5000_7500 nd_2_0_5000_7500 0.005
rvd_1_0_7_3 nd_1_0_7000_7500 nd_2_0_7000_7500 0.005
rvd_1_0_7_4 nd_1_0_9000_7500 nd_2_0_9000_7500 0.005
rvd_1_0_8_0 nd_1_0_1000_8500 nd_2_0_1000_8500 0.005
rvd_1_0_8_1 nd_1_0_3000_8500 nd_2_0_3000_8500 0.005
rvd_1_0_8_2 nd_1_0_5000_8500 nd_2_0_5000_8500 0.005
rvd_1_0_8_3 nd_1_0_7000_8500 nd_2_0_7000_8500 0.005
rvd_1_0_8_4 nd_1_0_9000_8500 nd_2_0_9000_8500 0.005
rvd_1_0_9_0 nd_1_0_1000_9500 nd_2_0_1000_9500 0.005
rvd_1_0_9_1 nd_1_0_3000_9500 nd_2_0_3000_9500 0.005
rvd_1_0_9_2 nd_1_0_5000_9500 nd_2_0_5000_9500 0.005
rvd_1_0_9_3 nd_1_0_7000_9500 nd_2_0_7000_9500 0.005
rvd_1_0_9_4 nd_1_0_9000_9500 nd_2_0_9000_9500 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_1000_500 0 pwl(0 0.0 5.331e-01ns 0.0  5.831e-01ns 7.9e-02  6.444e-01ns 7.9e-02  6.944e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_500 nd_1_0_1000_500_ci 10.2705
cd_0_0_0_0 nd_1_0_1000_500_ci 0 1.31453e-11
id_0_0_0_1 nd_1_0_3000_500 0 pwl(0 0.0 2.927e-01ns 0.0  3.427e-01ns 7.1e-02  3.687e-01ns 7.1e-02  4.187e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_500 nd_1_0_3000_500_ci 16.6482
cd_0_0_0_1 nd_1_0_3000_500_ci 0 4.00638e-12
id_0_0_0_2 nd_1_0_5000_500 0 pwl(0 0.0 1.110e-01ns 0.0  1.610e-01ns 2.0e-02  4.306e-01ns 2.0e-02  4.806e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_500 nd_1_0_5000_500_ci 14.3002
cd_0_0_0_2 nd_1_0_5000_500_ci 0 8.86098e-12
id_0_0_0_3 nd_1_0_7000_500 0 pwl(0 0.0 5.120e-01ns 0.0  5.620e-01ns 8.3e-03  8.673e-01ns 8.3e-03  9.173e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_500 nd_1_0_7000_500_ci 30.6446
cd_0_0_0_3 nd_1_0_7000_500_ci 0 3.76928e-12
id_0_0_0_4 nd_1_0_9000_500 0 pwl(0 0.0 8.022e-03ns 0.0  5.802e-02ns 9.6e-03  5.783e-01ns 9.6e-03  6.283e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_500 nd_1_0_9000_500_ci 16.3841
cd_0_0_0_4 nd_1_0_9000_500_ci 0 4.59611e-12
id_0_0_0_5 nd_1_0_1000_1500 0 pwl(0 0.0 7.313e-01ns 0.0  7.813e-01ns 1.5e-01  7.859e-01ns 1.5e-01  8.359e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_1500 nd_1_0_1000_1500_ci 11.0981
cd_0_0_0_5 nd_1_0_1000_1500_ci 0 1.46932e-11
id_0_0_0_6 nd_1_0_3000_1500 0 pwl(0 0.0 2.262e-01ns 0.0  2.762e-01ns 1.3e-02  9.298e-01ns 1.3e-02  9.798e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_1500 nd_1_0_3000_1500_ci 10.0105
cd_0_0_0_6 nd_1_0_3000_1500_ci 0 1.53147e-11
id_0_0_0_7 nd_1_0_5000_1500 0 pwl(0 0.0 4.466e-02ns 0.0  9.466e-02ns 4.1e-02  3.259e-01ns 4.1e-02  3.759e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_1500 nd_1_0_5000_1500_ci 7.77235
cd_0_0_0_7 nd_1_0_5000_1500_ci 0 1.43697e-11
id_0_0_0_8 nd_1_0_7000_1500 0 pwl(0 0.0 4.471e-01ns 0.0  4.971e-01ns 1.5e-02  5.929e-01ns 1.5e-02  6.429e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_1500 nd_1_0_7000_1500_ci 40.2547
cd_0_0_0_8 nd_1_0_7000_1500_ci 0 2.4947e-12
id_0_0_0_9 nd_1_0_9000_1500 0 pwl(0 0.0 8.416e-01ns 0.0  8.916e-01ns 1.8e-01  9.005e-01ns 1.8e-01  9.505e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_1500 nd_1_0_9000_1500_ci 8.33741
cd_0_0_0_9 nd_1_0_9000_1500_ci 0 1.0528e-11
id_0_0_0_10 nd_1_0_1000_2500 0 pwl(0 0.0 3.401e-01ns 0.0  3.901e-01ns 3.1e-02  7.215e-01ns 3.1e-02  7.715e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_2500 nd_1_0_1000_2500_ci 7.70881
cd_0_0_0_10 nd_1_0_1000_2500_ci 0 2.32524e-11
id_0_0_0_11 nd_1_0_3000_2500 0 pwl(0 0.0 2.876e-01ns 0.0  3.376e-01ns 1.2e-01  3.596e-01ns 1.2e-01  4.096e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_2500 nd_1_0_3000_2500_ci 10.7626
cd_0_0_0_11 nd_1_0_3000_2500_ci 0 6.17493e-12
id_0_0_0_12 nd_1_0_5000_2500 0 pwl(0 0.0 6.891e-01ns 0.0  7.391e-01ns 9.0e-02  8.102e-01ns 9.0e-02  8.602e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_2500 nd_1_0_5000_2500_ci 8.23485
cd_0_0_0_12 nd_1_0_5000_2500_ci 0 6.63469e-12
id_0_0_0_13 nd_1_0_7000_2500 0 pwl(0 0.0 1.828e-01ns 0.0  2.328e-01ns 6.2e-03  4.335e-01ns 6.2e-03  4.835e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_2500 nd_1_0_7000_2500_ci 57.8948
cd_0_0_0_13 nd_1_0_7000_2500_ci 0 2.46771e-12
id_0_0_0_14 nd_1_0_9000_2500 0 pwl(0 0.0 1.332e-01ns 0.0  1.832e-01ns 3.1e-02  4.628e-01ns 3.1e-02  5.128e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_2500 nd_1_0_9000_2500_ci 8.91912
cd_0_0_0_14 nd_1_0_9000_2500_ci 0 1.4714e-11
id_0_0_0_15 nd_1_0_1000_3500 0 pwl(0 0.0 5.334e-01ns 0.0  5.834e-01ns 1.5e-02  8.783e-01ns 1.5e-02  9.283e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_3500 nd_1_0_1000_3500_ci 17.9819
cd_0_0_0_15 nd_1_0_1000_3500_ci 0 6.65697e-12
id_0_0_0_16 nd_1_0_3000_3500 0 pwl(0 0.0 2.483e-02ns 0.0  7.483e-02ns 6.1e-03  2.904e-01ns 6.1e-03  3.404e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_3500 nd_1_0_3000_3500_ci 55.4305
cd_0_0_0_16 nd_1_0_3000_3500_ci 0 1.94289e-12
id_0_0_0_17 nd_1_0_5000_3500 0 pwl(0 0.0 4.287e-01ns 0.0  4.787e-01ns 1.1e-02  8.038e-01ns 1.1e-02  8.538e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_3500 nd_1_0_5000_3500_ci 21.1353
cd_0_0_0_17 nd_1_0_5000_3500_ci 0 9.30394e-12
id_0_0_0_18 nd_1_0_7000_3500 0 pwl(0 0.0 3.736e-01ns 0.0  4.236e-01ns 5.7e-02  4.934e-01ns 5.7e-02  5.434e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_3500 nd_1_0_7000_3500_ci 13.276
cd_0_0_0_18 nd_1_0_7000_3500_ci 0 2.2172e-12
id_0_0_0_19 nd_1_0_9000_3500 0 pwl(0 0.0 5.250e-01ns 0.0  5.750e-01ns 2.2e-02  8.751e-01ns 2.2e-02  9.251e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_3500 nd_1_0_9000_3500_ci 11.6596
cd_0_0_0_19 nd_1_0_9000_3500_ci 0 1.01692e-11
id_0_0_0_20 nd_1_0_1000_4500 0 pwl(0 0.0 4.730e-01ns 0.0  5.230e-01ns 2.8e-02  6.266e-01ns 2.8e-02  6.766e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_4500 nd_1_0_1000_4500_ci 20.6777
cd_0_0_0_20 nd_1_0_1000_4500_ci 0 5.12438e-12
id_0_0_0_21 nd_1_0_3000_4500 0 pwl(0 0.0 4.217e-01ns 0.0  4.717e-01ns 5.0e-02  5.599e-01ns 5.0e-02  6.099e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_4500 nd_1_0_3000_4500_ci 13.0656
cd_0_0_0_21 nd_1_0_3000_4500_ci 0 1.49594e-11
id_0_0_0_22 nd_1_0_5000_4500 0 pwl(0 0.0 3.710e-01ns 0.0  4.210e-01ns 9.3e-03  7.515e-01ns 9.3e-03  8.015e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_4500 nd_1_0_5000_4500_ci 25.3338
cd_0_0_0_22 nd_1_0_5000_4500_ci 0 7.23155e-12
id_0_0_0_23 nd_1_0_7000_4500 0 pwl(0 0.0 8.956e-01ns 0.0  9.456e-01ns 2.1e-01  9.956e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_4500 nd_1_0_7000_4500_ci 8.63214
cd_0_0_0_23 nd_1_0_7000_4500_ci 0 1.41337e-13
id_0_0_0_24 nd_1_0_9000_4500 0 pwl(0 0.0 8.434e-01ns 0.0  8.934e-01ns 1.2e-01  9.020e-01ns 1.2e-01  9.520e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_4500 nd_1_0_9000_4500_ci 12.7384
cd_0_0_0_24 nd_1_0_9000_4500_ci 0 7.0193e-12
id_0_0_0_25 nd_1_0_1000_5500 0 pwl(0 0.0 3.391e-01ns 0.0  3.891e-01ns 3.5e-02  4.426e-01ns 3.5e-02  4.926e-01ns 0.0)
rdesr_0_0_0_25 nd_1_0_1000_5500 nd_1_0_1000_5500_ci 24.6869
cd_0_0_0_25 nd_1_0_1000_5500_ci 0 7.17522e-12
id_0_0_0_26 nd_1_0_3000_5500 0 pwl(0 0.0 7.402e-01ns 0.0  7.902e-01ns 5.5e-02  8.538e-01ns 5.5e-02  9.038e-01ns 0.0)
rdesr_0_0_0_26 nd_1_0_3000_5500 nd_1_0_3000_5500_ci 14.4603
cd_0_0_0_26 nd_1_0_3000_5500_ci 0 4.56887e-12
id_0_0_0_27 nd_1_0_5000_5500 0 pwl(0 0.0 6.872e-01ns 0.0  7.372e-01ns 3.1e-02  9.155e-01ns 3.1e-02  9.655e-01ns 0.0)
rdesr_0_0_0_27 nd_1_0_5000_5500 nd_1_0_5000_5500_ci 12.6705
cd_0_0_0_27 nd_1_0_5000_5500_ci 0 4.28475e-12
id_0_0_0_28 nd_1_0_7000_5500 0 pwl(0 0.0 1.859e-01ns 0.0  2.359e-01ns 2.8e-02  5.386e-01ns 2.8e-02  5.886e-01ns 0.0)
rdesr_0_0_0_28 nd_1_0_7000_5500 nd_1_0_7000_5500_ci 9.26409
cd_0_0_0_28 nd_1_0_7000_5500_ci 0 1.54769e-11
id_0_0_0_29 nd_1_0_9000_5500 0 pwl(0 0.0 5.814e-01ns 0.0  6.314e-01ns 3.8e-02  7.480e-01ns 3.8e-02  7.980e-01ns 0.0)
rdesr_0_0_0_29 nd_1_0_9000_5500 nd_1_0_9000_5500_ci 14.2824
cd_0_0_0_29 nd_1_0_9000_5500_ci 0 9.19685e-12
id_0_0_0_30 nd_1_0_1000_6500 0 pwl(0 0.0 5.331e-01ns 0.0  5.831e-01ns 2.6e-02  8.789e-01ns 2.6e-02  9.289e-01ns 0.0)
rdesr_0_0_0_30 nd_1_0_1000_6500 nd_1_0_1000_6500_ci 10.029
cd_0_0_0_30 nd_1_0_1000_6500_ci 0 1.91037e-12
id_0_0_0_31 nd_1_0_3000_6500 0 pwl(0 0.0 2.936e-02ns 0.0  7.936e-02ns 1.4e-02  7.311e-01ns 1.4e-02  7.811e-01ns 0.0)
rdesr_0_0_0_31 nd_1_0_3000_6500 nd_1_0_3000_6500_ci 9.13188
cd_0_0_0_31 nd_1_0_3000_6500_ci 0 1.18183e-11
id_0_0_0_32 nd_1_0_5000_6500 0 pwl(0 0.0 4.264e-01ns 0.0  4.764e-01ns 1.7e-02  8.046e-01ns 1.7e-02  8.546e-01ns 0.0)
rdesr_0_0_0_32 nd_1_0_5000_6500 nd_1_0_5000_6500_ci 13.8948
cd_0_0_0_32 nd_1_0_5000_6500_ci 0 6.85699e-12
id_0_0_0_33 nd_1_0_7000_6500 0 pwl(0 0.0 5.060e-01ns 0.0  5.560e-01ns 3.0e-02  8.060e-01ns 3.0e-02  8.560e-01ns 0.0)
rdesr_0_0_0_33 nd_1_0_7000_6500 nd_1_0_7000_6500_ci 9.98607
cd_0_0_0_33 nd_1_0_7000_6500_ci 0 1.36526e-12
id_0_0_0_34 nd_1_0_9000_6500 0 pwl(0 0.0 4.504e-01ns 0.0  5.004e-01ns 3.8e-02  5.994e-01ns 3.8e-02  6.494e-01ns 0.0)
rdesr_0_0_0_34 nd_1_0_9000_6500 nd_1_0_9000_6500_ci 15.9757
cd_0_0_0_34 nd_1_0_9000_6500_ci 0 1.2986e-13
id_0_0_0_35 nd_1_0_1000_7500 0 pwl(0 0.0 8.494e-01ns 0.0  8.994e-01ns 9.7e-03  9.077e-01ns 9.7e-03  9.577e-01ns 0.0)
rdesr_0_0_0_35 nd_1_0_1000_7500 nd_1_0_1000_7500_ci 158.956
cd_0_0_0_35 nd_1_0_1000_7500_ci 0 1.19689e-12
id_0_0_0_36 nd_1_0_3000_7500 0 pwl(0 0.0 3.451e-01ns 0.0  3.951e-01ns 8.6e-02  4.510e-01ns 8.6e-02  5.010e-01ns 0.0)
rdesr_0_0_0_36 nd_1_0_3000_7500 nd_1_0_3000_7500_ci 9.86172
cd_0_0_0_36 nd_1_0_3000_7500_ci 0 1.81584e-11
id_0_0_0_37 nd_1_0_5000_7500 0 pwl(0 0.0 8.748e-01ns 0.0  9.248e-01ns 8.5e-02  9.423e-01ns 8.5e-02  9.923e-01ns 0.0)
rdesr_0_0_0_37 nd_1_0_5000_7500 nd_1_0_5000_7500_ci 15.6455
cd_0_0_0_37 nd_1_0_5000_7500_ci 0 1.25794e-11
id_0_0_0_38 nd_1_0_7000_7500 0 pwl(0 0.0 3.748e-01ns 0.0  4.248e-01ns 7.0e-02  4.940e-01ns 7.0e-02  5.440e-01ns 0.0)
rdesr_0_0_0_38 nd_1_0_7000_7500 nd_1_0_7000_7500_ci 10.794
cd_0_0_0_38 nd_1_0_7000_7500_ci 0 7.94781e-12
id_0_0_0_39 nd_1_0_9000_7500 0 pwl(0 0.0 3.241e-01ns 0.0  3.741e-01ns 8.5e-03  7.057e-01ns 8.5e-03  7.557e-01ns 0.0)
rdesr_0_0_0_39 nd_1_0_9000_7500 nd_1_0_9000_7500_ci 27.808
cd_0_0_0_39 nd_1_0_9000_7500_ci 0 6.24908e-12
id_0_0_0_40 nd_1_0_1000_8500 0 pwl(0 0.0 2.711e-01ns 0.0  3.211e-01ns 1.5e-02  6.493e-01ns 1.5e-02  6.993e-01ns 0.0)
rdesr_0_0_0_40 nd_1_0_1000_8500 nd_1_0_1000_8500_ci 15.3546
cd_0_0_0_40 nd_1_0_1000_8500_ci 0 1.0608e-11
id_0_0_0_41 nd_1_0_3000_8500 0 pwl(0 0.0 6.731e-01ns 0.0  7.231e-01ns 8.9e-03  9.415e-01ns 8.9e-03  9.915e-01ns 0.0)
rdesr_0_0_0_41 nd_1_0_3000_8500 nd_1_0_3000_8500_ci 37.5898
cd_0_0_0_41 nd_1_0_3000_8500_ci 0 4.01286e-12
id_0_0_0_42 nd_1_0_5000_8500 0 pwl(0 0.0 6.199e-01ns 0.0  6.699e-01ns 6.7e-02  7.842e-01ns 6.7e-02  8.342e-01ns 0.0)
rdesr_0_0_0_42 nd_1_0_5000_8500 nd_1_0_5000_8500_ci 8.14124
cd_0_0_0_42 nd_1_0_5000_8500_ci 0 4.82591e-12
id_0_0_0_43 nd_1_0_7000_8500 0 pwl(0 0.0 6.948e-01ns 0.0  7.448e-01ns 5.3e-02  9.183e-01ns 5.3e-02  9.683e-01ns 0.0)
rdesr_0_0_0_43 nd_1_0_7000_8500 nd_1_0_7000_8500_ci 7.56237
cd_0_0_0_43 nd_1_0_7000_8500_ci 0 7.49651e-12
id_0_0_0_44 nd_1_0_9000_8500 0 pwl(0 0.0 5.152e-01ns 0.0  5.652e-01ns 7.2e-03  8.683e-01ns 7.2e-03  9.183e-01ns 0.0)
rdesr_0_0_0_44 nd_1_0_9000_8500 nd_1_0_9000_8500_ci 35.5057
cd_0_0_0_44 nd_1_0_9000_8500_ci 0 3.2613e-12
id_0_0_0_45 nd_1_0_1000_9500 0 pwl(0 0.0 1.289e-02ns 0.0  6.289e-02ns 7.3e-03  7.141e-01ns 7.3e-03  7.641e-01ns 0.0)
rdesr_0_0_0_45 nd_1_0_1000_9500 nd_1_0_1000_9500_ci 17.477
cd_0_0_0_45 nd_1_0_1000_9500_ci 0 2.27985e-13
id_0_0_0_46 nd_1_0_3000_9500 0 pwl(0 0.0 8.628e-01ns 0.0  9.128e-01ns 1.0e-01  9.380e-01ns 1.0e-01  9.880e-01ns 0.0)
rdesr_0_0_0_46 nd_1_0_3000_9500 nd_1_0_3000_9500_ci 11.5473
cd_0_0_0_46 nd_1_0_3000_9500_ci 0 8.05614e-12
id_0_0_0_47 nd_1_0_5000_9500 0 pwl(0 0.0 3.613e-01ns 0.0  4.113e-01ns 2.3e-02  7.417e-01ns 2.3e-02  7.917e-01ns 0.0)
rdesr_0_0_0_47 nd_1_0_5000_9500 nd_1_0_5000_9500_ci 10.4068
cd_0_0_0_47 nd_1_0_5000_9500_ci 0 1.73755e-11
id_0_0_0_48 nd_1_0_7000_9500 0 pwl(0 0.0 3.078e-01ns 0.0  3.578e-01ns 6.3e-02  3.921e-01ns 6.3e-02  4.421e-01ns 0.0)
rdesr_0_0_0_48 nd_1_0_7000_9500 nd_1_0_7000_9500_ci 17.0572
cd_0_0_0_48 nd_1_0_7000_9500_ci 0 4.10145e-12
id_0_0_0_49 nd_1_0_9000_9500 0 pwl(0 0.0 7.045e-01ns 0.0  7.545e-01ns 1.3e-02  8.521e-01ns 1.3e-02  9.021e-01ns 0.0)
rdesr_0_0_0_49 nd_1_0_9000_9500 nd_1_0_9000_9500_ci 48.0429
cd_0_0_0_49 nd_1_0_9000_9500_ci 0 3.28831e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_1500 nd0 'dcap_int_val122'
cd_add_cap1 nd_1_0_7000_1500 nd1 'dcap_int_val123'
cd_add_cap2 nd_1_0_3000_3500 nd2 'dcap_int_val124'
cd_add_cap3 nd_1_0_7000_3500 nd3 'dcap_int_val125'
cd_add_cap4 nd_1_0_3000_5500 nd4 'dcap_int_val126'
cd_add_cap5 nd_1_0_7000_5500 nd5 'dcap_int_val127'
cd_add_cap6 nd_1_0_3000_8500 nd6 'dcap_int_val128'
cd_add_cap7 nd_1_0_7000_8500 nd7 'dcap_int_val129'
rd_add0 nd0 0 'esr1'
rd_add1 nd1 0 'esr2'
rd_add2 nd2 0 'esr3'
rd_add3 nd3 0 'esr4'
rd_add4 nd4 0 'esr5'
rd_add5 nd5 0 'esr6'
rd_add6 nd6 0 'esr7'
rd_add7 nd7 0 'esr8'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_2500  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_4500  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_6500  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_1000_8500  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1500  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_3500  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_5500  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_3000_7500  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_2500  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_4500  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_6500  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_5000_8500  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1500  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_3500  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_5500  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_7000_7500  0.001

.ends chiplet1
